US06855714B2
2-(4-tert-Butyl-phenyl)-6-[(5-(methoxycarbonyl)pentyl)oxy]-1-(3-methoxy-propyl)-benzimidazole is reacted with 3-methoxypropylamine according to general operating instructions 7. 2-(4-tert-Butyl-phenyl)-1-(3-methoxy-propyl)-6-[(5-((3-methoxy-propyl)amino-carbonyl)-pentyl)oxy]-benzimidazole is obtained as a yellow solid.

reactant | 2-(4-tert-Butyl-phenyl)-6-[(5-(methoxycarbonyl)pentyl)oxy]-1-(3-methoxy-propyl)-benzimidazole | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCCOC)C=C(C=C2)OCCCCCC(=O)OC | C28H38N2O4
reactant | 3-methoxypropylamine | COCCCN | C4H11NO
product | 2-(4-tert-Butyl-phenyl)-1-(3-methoxy-propyl)-6-[(5-((3-methoxy-propyl)amino-carbonyl)-pentyl)oxy]-benzimidazole | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCCOC)C=C(C=C2)OCCCCCC(=O)NCCCOC | C31H45N3O4
